US06610846B1
A solution of triphenylphosphine (48 mg, 0.183 mmol) in methylene chloride (700 μL) was cooled to 0° C. and then slowly treated with N-bromosuccinimide (33 mg, 0.183 mmol). The reaction mixture was stirred at 0° C. for 10 min and then treated with 3-cyclopentyl-2-(3-fluoro-4-methanesulfonyl-phenyl)-propionic acid (50 mg, 0.159 mmol). The resulting reaction mixture was stirred at 0° C. for 5 min and then allowed to warm to 25° C. where it was stirred for 30 min. The reaction mixture was then treated with 2-aminothiazole (35 mg, 0.35 mmol). The resulting reaction mixture was stirred at 25° C. for 15 h. The crude reaction mixture was directly purified by flash chromatography (Merck Silica gel 60, 230-400 mesh, 1/1 hexanes/ethyl acetate) to afford 3-cyclopentyl-2-(3-fluoro-4-methanesulfonyl-phenyl)-N-thiazol-2-yl-propionamide (40.4 mg, 64%) as a pink solid: mp 200-202° C.; EI-HRMS m/e calcd for C18H21FN2O3S2 (M+) 396.0978, found 396.0976.

reactant | triphenylphosphine | 0.183 mmol, 48 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-bromosuccinimide | 0.183 mmol, 33 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 3-cyclopentyl-2-(3-fluoro-4-methanesulfonyl-phenyl)-propionic acid | 0.159 mmol, 50 mg | C1(CCCC1)CC(C(=O)O)C1=CC(=C(C=C1)S(=O)(=O)C)F | C15H19FO4S
reactant | 2-aminothiazole | 0.35 mmol, 35 mg | NC=1SC=CN1 | C3H4N2S
solvent | methylene chloride | 700 μL | C(Cl)Cl | CH2Cl2
product | 3-cyclopentyl-2-(3-fluoro-4-methanesulfonyl-phenyl)-N-thiazol-2-yl-propionamide | 40.4 mg, 64% | C1(CCCC1)CC(C(=O)NC=1SC=CN1)C1=CC(=C(C=C1)S(=O)(=O)C)F | C18H21FN2O3S2
